US05276154
A dichloromethane (10 ml) solution of methanesulfonyl chloride (1.44 g, 12.6 mmol) was added to a dichloromethane (40 ml) solution of N-methoxy-N-methyl-3-{2-cyclopropyl-4-(4-fluorophenyl)quinolin-3-yl}-3-hydroxypropanamide (3.30 g, 8.38 mmol) and triethylamine (1.27 g, 12.6 mmol). The resulting mixture was stirred at 0 ° C. for 30 minutes and at room temperature for 3 hours before treatment with triethylamine (1.27 g, 12.6 mmol). The mixture was heated to reflux for 3 hours, quenched with saturated NaHCO3 aq solution, and extracted with dichloromethane. The organic layer was washed with saturated NaCl aq solution, dried over magnesium sulfate, and then concentrated. The residue was purified by column chromatography (hexane:ethyl acetate=3:1) to give N-methoxy-N-methyl-(E)-3-{2-cyclopropyl-4-(4-fluorophenyl)quinolin-3-yl}propenamide (2.52 g, 80% yield).

reactant | methanesulfonyl chloride | 12.6 mmol, 1.44 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | N-methoxy-N-methyl-3-{2-cyclopropyl-4-(4-fluorophenyl)quinolin-3-yl}-3-hydroxypropanamide | 8.38 mmol, 3.30 g | CON(C(CC(O)C=1C(=NC2=CC=CC=C2C1C1=CC=C(C=C1)F)C1CC1)=O)C | C23H23FN2O3
reactant | triethylamine | 12.6 mmol, 1.27 g | C(C)N(CC)CC | C6H15N
reactant | triethylamine | 12.6 mmol, 1.27 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N-methoxy-N-methyl-(E)-3-{2-cyclopropyl-4-(4-fluorophenyl)quinolin-3-yl}propenamide | 2.52 g, 80% yield | CON(C(\C=C\C=1C(=NC2=CC=CC=C2C1C1=CC=C(C=C1)F)C1CC1)=O)C | C23H21FN2O2
